US07745450B2
5,7-dihydroxy-3-isopropylpyrazolo[4,3-d]pyrimidine (XIV)
Mixture of 4-amino-5-isopropylpyrazole-3-carboxamide (770 mg, 4.58 mmol) and urea (1.4 g, 4.58 mmol) was fused at 180° C. for 30 min. After cooling, the solid was dissolved in 2.3 mL of 2 M sodium hydroxide. The boiling solution was acidified with glacial acetic acid and the warm solution was filtered. This solution was cooled to 5° C. and the product started to precipitate after a few minutes. The crude product (1.3 g) was recrystallized twice from a hot water. Yield 78.5%; mp=295-298° C. 1H NMR (300 MHz, DMSO): 1.21 d (6H, J=6.6 Hz), 3.17 sept (1H, J=6.6 Hz). MS (EI): 194(94; C8H10N4O2); 179(100; C7H7N4O2); 162(51; C7H4N3O2); 136(15); 123(7); 95(8); 81(13); 54(26); 43(23).

reactant | 4-amino-5-isopropylpyrazole-3-carboxamide | 4.58 mmol, 770 mg | NC=1C(=NNC1C(C)C)C(=O)N | C7H12N4O
reactant | urea | 4.58 mmol, 1.4 g | NC(=O)N | CH4N2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2 M, 2.3 mL | [OH-].[Na+]
product | 5,7-dihydroxy-3-isopropylpyrazolo[4,3-d]pyrimidine | Yield 78.5% | OC=1N=C(C2=C(N1)C(=NN2)C(C)C)O | C8H10N4O2
